US04243406
Ethyl-2-(2'-trifluoromethylbenzoyl)-3-dimethylaminopropenoate (3.14 g.; 0.01 mol.) was dissolved in 15 ml. of dioxane. To this solution was added a solution of hydroxylamine hydrochloride (1.05 g.; 0.015 mol.) in 5 ml. of water. The resulting solution was stirred for 14 hours at 25° C. Extraction with water and diethyl ether yielded ethyl-5-(2'-trifluoromethylphenyl)-4-isoxazolecarboxylate as an oil (1.6 g.; 56.2% yield) having the following analysis:

reactant | Ethyl-2-(2'-trifluoromethylbenzoyl)-3-dimethylaminopropenoate | 0.01 mol, 3.14 g | C(C)OC(C(=CN(C)C)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C15H16F3NO3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hydroxylamine hydrochloride | 0.015 mol, 1.05 g | Cl.NO
solvent | water | O | H2O
product | ethyl-5-(2'-trifluoromethylphenyl)-4-isoxazolecarboxylate | 56.2% yield | C(C)OC(=O)C=1C=NOC1C1=C(C=CC=C1)C(F)(F)F | C13H10F3NO3
